US07612114B2
[5-Methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine
Synthesized from 5-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenylamine (341 mg) and 4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride (990 mg) according to an analogous synthetic method to Example 110, the title compound (113 mg) was obtained.

reactant | 5-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenylamine | 341 mg | COC=1C=CC(=C(C1)N)C1=CC2=CC=C(C=C2CC1)OC | C18H19NO2
reactant | 4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride | 990 mg | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1
product | [5-Methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl][4-(2-piperidin-1-ylethoxy)benzyl]amine | 113 mg | COC=1C=CC(=C(C1)NCC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC2=CC=C(C=C2CC1)OC | C32H38N2O3
